US03997548
Preparation of 7-hydroxy-2,1-benzisothiazole
7-Methoxy-2,1-benzisothiazole was dissolved in ether and converted to the hydrochloride using dry hydrogen chloride gas. The 7-methoxy-2,1-benzisothiazole hydrochloride (6.0 g.) was refluxed 22 hours in a solution of 16 g. boron tribromide and 160 ml. methylene chloride to give 3.78 g. pure, yellow, crystalline 7-hydroxy-2,1-benzisothiazole, mp. 99°-100.5° after recrystallization from hexane. This structure was confirmed by nmr.

reactant | 7-Methoxy-2,1-benzisothiazole | COC1=CC=CC2=CSN=C21 | C8H7NOS
reactant | hydrochloride | Cl | ClH
reactant | 7-methoxy-2,1-benzisothiazole hydrochloride | 6.0 g | Cl.COC1=CC=CC2=CSN=C21
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-hydroxy-2,1-benzisothiazole | OC1=CC=CC2=CSN=C21 | C7H5NOS
